US04354973
8-Chloro-6-(2-chlorophenyl)-1-methyl-2H,4H-pyrrolo[3,4-d][2]benzazepine
A mixture of 8.5 g (24 mmol) of 4-[4-chloro-2-(2-chlorobenzoyl)phenyl]-5-methyl-1H-pyrrole-3-carbonitrile, 1 spoonful of Raney nickel and 250 ml of glacial acetic acid was hydrogenated on a Parr apparatus at 55 psi overnight. The catalyst was removed by filtration and the acetic acid was removed at reduced pressure. The residue was diluted with water, basified with concentrated ammonium hydroxide and the resulting precipitate was collected by filtration. The precipitate was dissolved in tetrahydrofuran, dried over anhydrous sodium sulfate and concentrated at reduced pressure. The residue was crystallized from a mixture of ether and petroleum ether to give off-white crystals (mp 219°-222°). Recrystallization from a mixture of ether and methylene chloride gave colorless crystals, mp 221°-225°.

reactant | 4-[4-chloro-2-(2-chlorobenzoyl)phenyl]-5-methyl-1H-pyrrole-3-carbonitrile | 24 mmol, 8.5 g | ClC1=CC(=C(C=C1)C=1C(=CNC1C)C#N)C(C1=C(C=CC=C1)Cl)=O | C19H12Cl2N2O
catalyst | Raney nickel | [Ni] | Ni
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | 8-Chloro-6-(2-chlorophenyl)-1-methyl-2H,4H-pyrrolo[3,4-d][2]benzazepine | ClC1=CC2=C(C=3C(CN=C2C2=C(C=CC=C2)Cl)=CNC3C)C=C1 | C19H14Cl2N2
